US06211234B1
Benzyl alcohol (5.4 g) is added slowly to a stirred suspension of sodium hydride (2 g, 60% dispersion in mineral oil) in dry dimethylformamide (100 mL). The mixture is stirred for 30 minutes then 2,4-difluoronitrobenzene (3.2 g) is added in one portion. The resulting black solution is stirred at room temperature for 18 hours ,evaporated and the residue partitioned between ether (200 mL) and water (100 mL). The organic phase is washed thoroughly with water, dried and evaporated. The residue is triturated with hot ethanol (50 mL) and the mixture cooled in an ice-bath. The insoluble material is purified by filtration through a bed of silica eluting with a mixture of dichloromethane and petroleum ether, b.p.40-60° C., (1:1 v/v). The filtrate is evaporated and the solid crystallised from ethanol to give 2,4-dibenzyloxynitrobenzene (2.3 g) as a cream coloured solid, m.p. 101-103° C. [Elemental analysis:- C,71.4; H,5.07; N,4.09%. Calculated:- C,71.6; H,5.11; N,4.18%].

reactant | Benzyl alcohol | 5.4 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | 2,4-difluoronitrobenzene | 3.2 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2,4-dibenzyloxynitrobenzene | 2.3 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C20H17NO4
